US07582773B2
Step 4: Synthesis of [4-(1,3-Dimethyl-2-phenyl-1H-indol-5-yl)-phenoxy]-acetonitrile.
The desired product was prepared using a procedure similar to step 5 of example 3. Thus, 4-(1,3-dimethyl-2-phenyl-1H-indol-5-yl)-phenol (0.353 g, 1.126 mmol) was reacted with K2CO3 (0.189 g, 1.352 mmol) and bromoacetonitrile (0.162 g, 1.352 mmol) in acetone (15 ml) to give the desired product (0.362 g, 1.027 mmol, 91%) as a white solid, mp 177-179° C. 1H NMR (DMSO-d6) δ 2.25 (s, 3H), 3.61 (s, 3H), 5.21 (s, 2H), 7.15 (d, J=8.7 Hz, 2H), 7.45-7.52 (m, 5H), 7.55 (t, J=7.5 Hz, 2H), 7.72 (d, J=8.9 Hz, 2H), 7.78 (s, 1H); [EI], m/z 352 (M)+.

reactant | 4-(1,3-dimethyl-2-phenyl-1H-indol-5-yl)-phenol | 1.126 mmol, 0.353 g | CN1C(=C(C2=CC(=CC=C12)C1=CC=C(C=C1)O)C)C1=CC=CC=C1 | C22H19NO
reactant | K2CO3 | 1.352 mmol, 0.189 g | C(=O)([O-])[O-].[K+].[K+]
reactant | bromoacetonitrile | 1.352 mmol, 0.162 g | BrCC#N | C2H2BrN
solvent | acetone | 15 ml | CC(=O)C | C3H6O
product | [4-(1,3-Dimethyl-2-phenyl-1H-indol-5-yl)-phenoxy]-acetonitrile | 1.027 mmol, 0.362 g, 91% | CN1C(=C(C2=CC(=CC=C12)C1=CC=C(OCC#N)C=C1)C)C1=CC=CC=C1 | C24H20N2O
